US05948793
66a. 3-benzyloxy-5-trifluoromethylpyridine
To a 3.63 g (20 mmol) sample of 3-chloro-5-trifluoromethylpyridine dissolved in 15 mL of DMF and cooled to 0° C. was added 960 mg of NaH (60%), 2.07 mL of benzyl alcohol was added slowly. The reaction mixture was stirred for 2 hours at 40° C. The solvent was then evaporated in vacuo and the mixture diluted with chloroform, washed with saturated NaHCO3 and a brine solution. The organic layer was then dried over MgSO4. The resulting crude material was purified by flash chromatography on silica gel to give the title product. MS (DCI/NH3) m/e 154 (M+H)+. 1H NMR (CDCl3, 300 MHz) d: 8.56 (d, J=1.8 Hz, 1H), 8.47 (d, J=0.9 Hz, 1H), 7.51 (dd, J=1, 0.9 Hz, 1H).

reactant | 3-chloro-5-trifluoromethylpyridine | ClC=1C=NC=C(C1)C(F)(F)F | C6H3ClF3N
reactant | NaH | 960 mg | [H-].[Na+]
reactant | benzyl alcohol | 2.07 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-benzyloxy-5-trifluoromethylpyridine | C(C1=CC=CC=C1)OC=1C=NC=C(C1)C(F)(F)F | C13H10F3NO
